US05498630
4-t-Butyl-N-ethylbenzamide (9 g, 0.044 mol) was prepared in 97% yield from 4-t-butylbenzoyl chloride (9 ml, 0.045 mol) and ethyl amine (70 wt % in water) using Method E2.

reactant | 4-t-butylbenzoyl chloride | 0.045 mol, 9 ml | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
reactant | ethyl amine | C(C)N | C2H7N
product | 4-t-Butyl-N-ethylbenzamide | 0.044 mol, 9 g, 97% yield | C(C)(C)(C)C1=CC=C(C(=O)NCC)C=C1 | C13H19NO
